US08420642B2
3-(2-Methoxy-1-methyl-ethoxy)-5-phenoxy-pyridine-2-ylamine (0.28 mmol) is dissolved in THF (4 ml) and 1,1′-thiocarbonyldiimidazole (4 eq.) is added. The reaction solution is stirred 22 hours. 32% NH4OH (20 eq.) is added and stirred 2 hours at room temperature. Water (60 ml) is added and extracted with dichloromethane. The combined organic layers are washed with brine and dried over MgSO4. The solvent is removed in vacuo. [3-(2-Methoxy-1-methyl-ethoxy)-5-phenoxy-pyridin-2-yl]thiourea is obtained as yellow oil in a yield of 70%. HPLC (method C): 1.93 min; LC-MS (method A): 1.85 min, 334.15 (MH+).

reactant | 3-(2-Methoxy-1-methyl-ethoxy)-5-phenoxy-pyridine-2-ylamine | 0.28 mmol | COCC(OC=1C(=NC=C(C1)OC1=CC=CC=C1)N)C | C15H18N2O3
reactant | 1,1′-thiocarbonyldiimidazole | 4 eq. | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | NH4OH | 20 eq. | [NH4+].[OH-]
reactant | Water | 60 ml | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | [3-(2-Methoxy-1-methyl-ethoxy)-5-phenoxy-pyridin-2-yl]thiourea | yield of 70% | COCC(OC=1C(=NC=C(C1)OC1=CC=CC=C1)NC(=S)N)C | C16H19N3O3S
